US09029545B2
4-Amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid
To a solution of ethyl 4-amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylate (5 g, 15.19 mmol) (Description 6) in ethanol (50 mL) was added aqueous NaOH (3M) (20.25 mL, 60.8 mmol) and the mixture stirred at 100° C. for 1 h. The reaction mixture was cooled and combined with material (4.43 g) from a similar reaction. The combined solution was acidified with aqueous HCl (1M) to pH 6-7. Ethanol was removed in vacuo. Water (50 mL) was added and the mixture extracted with DCM (5×50 mL). The combined organics were dried over MgSO4, filtered and solvent removed in vacuo, to afford the title compound (2.98 g). LCMS (A) m/z: 301/303 [M+1]+, Rt 0.73 min (acidic).

reactant | ethyl 4-amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 15.19 mmol, 5 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2Br)C | C12H13BrN2O2S
reactant | NaOH | 60.8 mmol, 3M, 20.25 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid | 2.98 g | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2Br)C | C10H9BrN2O2S
